US03966816
N-cyclopropyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline
The compound was prepared by eacting cyclopropylamine with 2,4-dichloro-3,5-dinitrobenzotrifluoride in cyclohexane to give the product having a melting point of 86° - 87°C.

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N-cyclopropyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline | C1(CC1)NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C10H7ClF3N3O4
